US04666502
N-(2-chloro-3,5-dimethyl-thien-4-yl)-chloroacetamide
To the stirred solution of 5.0 g (0.0245 mol) of N-(2,4-dimethylthien-3-yl)-chloroacetamide in 50 ml of dry CH2Cl2 are added dropwise at 0° 3.3 g (0.0245 mol) of sulfuryl chloride.

reactant | N-(2,4-dimethylthien-3-yl)-chloroacetamide | 0.0245 mol, 5.0 g | CC=1SC=C(C1NC(CCl)=O)C | C8H10ClNOS
reactant | sulfuryl chloride | 0.0245 mol, 3.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-chloro-3,5-dimethyl-thien-4-yl)-chloroacetamide | ClC=1SC(=C(C1C)NC(CCl)=O)C | C8H9Cl2NOS
